US08211927B2
Tetrakis(triphenylphosphine)palladium (0) (57.9 mg, 0.05 mmol) was added to a stirred suspension of 2,4,6-trivinylcyclotriboroxane pyridine complex (121 mg, 0.50 mmol), 4-bromo-N-cyclopentyl-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide (202 mg, 0.50 mmol) and potassium carbonate (138 mg, 1.0 mmol) in DME (4.7 mL) and water (1.6 mL) and heated to 100° C. for 2 hours. The reaction mixture was allowed to cool to room temperature and partitioned between water and ethylacetate. The organics were dried over magnesium sulphate and concentrated in vacuo. Purification by silica gel chromatography eluting with heptane to 20% ethylacetate in heptane to obtain N-cyclopentyl-5-(4-(trifluoromethyl)phenyl)-4-vinylisoxazole-3-carboxamide (140 mg, 0.40 mmol).

reactant | 2,4,6-trivinylcyclotriboroxane pyridine complex | 0.50 mmol, 121 mg | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
reactant | 4-bromo-N-cyclopentyl-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide | 0.50 mmol, 202 mg | BrC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)NC1CCCC1 | C16H14BrF3N2O2
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 4.7 mL | COCCOC | C4H10O2
solvent | water | 1.6 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.05 mmol, 57.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopentyl-5-(4-(trifluoromethyl)phenyl)-4-vinylisoxazole-3-carboxamide | 0.40 mmol, 140 mg | C1(CCCC1)NC(=O)C1=NOC(=C1C=C)C1=CC=C(C=C1)C(F)(F)F | C18H17F3N2O2
